US07109211B2
Step 1. Preparation of 4-chloro-2,6-bis(hydroxymethyl)phenol.
Potassium hydroxide (84.82 g, 1.30 mole) was dissolved in H2O (200 mL) in a two liter 3-neck round bottom flask fitted with thermocouple, mechanical stirrer, and stopper. With stirring, 4-chlorophenol (128.56 g, 1.0 mole) was added with cooling (ice bath) resulting in the temperature rising to 26° C. Formalin (230 mL of 37% aqueous solution, 2.83 mole) was added portion-wise maintaining the temperature below 25° C. The reaction was warmed to 35° C. for 48 hours. To this solution was added aqueous acetic acid (80.0 mL, 84.1 g, 1.40 mole in 800 mL H2O) causing the solution to become turbid. Vacuum filtration of the suspension yielded a tan solid. The solid was stirred with acetone (100 mL) and the insoluble product collected by vacuum filtration. The solution was diluted with hexanes yielding several crops of the diol as fine tan needles (35.0 g, 19%). mp 160.6–163.3° C. 1H NMR (acetone-d6, NaOD, D2O/300 MHz) 6.69 (s, 2H), 4.48 (s, 4H), 7.88 (d, 1H, J=2.6 Hz), 7.75 (d, 1H, J=2.6 Hz), 6.08 (q, 1H, J=6.9 Hz). ESLRMS m/z 206 (M+NH4+). ESHRMS m/z 187.0131 (M−H, Calc'd 187.0162).

reactant | Potassium hydroxide | 1.30 mole, 84.82 g | [OH-].[K+]
reactant | 4-chlorophenol | 1.0 mole, 128.56 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | Formalin | 2.83 mole, 230 mL | C=O | CH2O
reactant | acetic acid | 1.40 mole, 80.0 mL, 84.1 g | C(C)(=O)O | C2H4O2
solvent | H2O | 200 mL | O | H2O
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | 4-chloro-2,6-bis(hydroxymethyl)phenol | ClC1=CC(=C(C(=C1)CO)O)CO | C8H9ClO3
